US06423699B1
A mixture of 6-bromo-2-benzothiazolinone (5.0 g, 21.7 mmol), 3-nitrophenyl boronic acid (5.0 g, 30.0 mmol), tetrakis(triphenylphosphine)-palladium (0) (1.73 g, 1.5 mmol), and potassium carbonate (8.0 g, 58.0 mmol) in toluene (100 mL), H2O (20 mL), and ethanol (30 mL) was subject to a blanket of nitrogen for 15 minutes at 50° C. and then was heated at 85° C. for 24 hours. The reaction mixture was cooled to room temperature and ethyl acetate (100 mL) was added. The organic layer was washed with aqueous ammonium chloride (2×50 mL) and with brine (100 mL), dried over magnesium sulfate and concentrated. The residue was purified via chromatography (silica gel, 25% ethyl acetate/hexane) to give 6-(3-nitro-phenyl)-3H-benzothiazol-2-one as a brown solid (0.1 g, 1.8%): mp 276-277° C.; 1H-NMR (DMSO-d6) δ 11 (s, 1H), 8.44 (t, 1H, J=2.7 Hz), 8.21-8.08 (m, 3H), 7.78-7.69 (m, 2H), 7.24 (d, 1H), J=9.23 Hz); MS (ES) m/z 271 ([M−H]−, 100%); Anal. Calc. For C13H8N2O3S 0.25 H2O: C, 56.41, H,3.10, N, 10.12. Found: C, 56.48, H, 3.11, N, 9.99.

reactant | 6-bromo-2-benzothiazolinone | 21.7 mmol, 5.0 g | BrC1=CC2=C(NC(S2)=O)C=C1 | C7H4BrNOS
reactant | 3-nitrophenyl boronic acid | 30.0 mmol, 5.0 g | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
reactant | potassium carbonate | 58.0 mmol, 8.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | 30 mL | C(C)O | C2H6O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | H2O | 20 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)-palladium (0) | 1.5 mmol, 1.73 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 6-(3-nitro-phenyl)-3H-benzothiazol-2-one | 0.1 g, 1.8% | [N+](=O)([O-])C=1C=C(C=CC1)C1=CC2=C(NC(S2)=O)C=C1 | C13H8N2O3S
